US04186199
A stirred mixture of 2.1 g of 1,2-dihydroindolo[1,7-ab][1,5]benzodiazepine in 16 ml of dry tetrahydrofuran is cooled under N2 to 0°-5° C., then treated dropwise with 9.4 ml of a 2.8 molar solution of phenyl magnesium bromide in ether at such a rate as to keep the reaction temperature below 10° C. When the addition is complete, the reaction mixture is refluxed for 3 hours, cooled and then poured into 100 ml ice-water containing 10 ml of concentrated HCl. The resultant mixture is made alkaline with NH4OH and extracted with methylenechloride. The organic phase is separated, washed with brine, dried over Na2SO4 and concentrated to give 6-phenyl-1,2,6,7-tetrahydroindolo[1,7-ab][1,5]benzodiazepine, m.p. 161°-164° C.

reactant | 1,2-dihydroindolo[1,7-ab][1,5]benzodiazepine | 2.1 g | C1CC2=CC=CC3=C2N1C1=C(N=C3)C=CC=C1 | C15H12N2
reactant | phenyl magnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | HCl | Cl | ClH
reactant | NH4OH | [NH4+].[OH-]
solvent | tetrahydrofuran | 16 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 6-phenyl-1,2,6,7-tetrahydroindolo[1,7-ab][1,5]benzodiazepine | C1(=CC=CC=C1)C1C2=C3N(C4=C(N1)C=CC=C4)CCC3=CC=C2 | C21H18N2
